US07994324B2
Cyclopropanecarboxylic acid[2-((R)-indan-1-ylamino)-quinolin-5-yl]-amide
The title compound, MS: m/e=344.3 (M+H+), was prepared in accordance with the general method of example 18 from (R)—N2-indan-1-yl-quinoline-2,5-diamine and cyclopropane carbonyl chloride.

reactant | (R)—N2-indan-1-yl-quinoline-2,5-diamine | [C@H]1(CCC2=CC=CC=C12)NC1=NC=2C=CC=C(C2C=C1)N | C18H17N3
reactant | cyclopropane carbonyl chloride | C1(CC1)C(=O)Cl | C4H5ClO
product | Cyclopropanecarboxylic acid[2-((R)-indan-1-ylamino)-quinolin-5-yl]-amide | [C@H]1(CCC2=CC=CC=C12)NC1=NC2=CC=CC(=C2C=C1)NC(=O)C1CC1 | C22H21N3O
